US06780856B2
N6-Trityl-Lysine (2):
Lysine 2HCL (1.012 g, 4.34 mmol) was suspended in 300 ml dichloromethane, and sonicated until suspension was homogeneous. Triethylamine (7.5 ml, 54.1 mmol, 2.5 eq.) was added and the mixture was left to stir for 20 minutes in Brine/Ice bath (−15° C). Triphenylmethylchloride (Trityl chloride) (6.00 g, 21.5 mmol, 1 eq.) was dissolved in 200 ml dichloromethane and then slowly added over a period of 1 hour via a dropping funnel to the reaction flask. The reaction was followed by TLC (Silica, 5% methanol/95% CH2Cl2) and was stopped 1 hour after disappearance of Trityl chloride. Volume was reduced by reduced pressure distillation. The reaction product was washed first with 5% sodium bicarbonate (2×, 20 ml each), brine (1×, 20 ml), dried over sodium sulfate, filtered, and the solvent removed at reduced pressure distillation. The product was purified by flash column chromatography (Silica Gel, 3% methanol/97% CH2Cl2) and isolated as a clear golden oil (0.753 g. Yield: 43%). 1H NMR (CDCl3, 300 MHz δ1.40 (m, 2H), 1.52 (m, 2H), 1.67 (m, 2H), 2.11 (t,2H), 3.41 (t, 1H), 3.69 (s,3H), 7.14-7.51 (m, 15H); 13C NMR (CDCl3, 75 MHz) δ23.6, 30.7, 35.0, 43.5, 51.9, 54.5, 71.0, 126.2, 127.8, 128.7, 146.4, 176.6; ESI-MS calculated for C27H30N2O2 402.53; found 403.6 [M++1].

reactant | Lysine 2HCL | 4.34 mmol, 1.012 g | Cl.Cl.N[C@@H](CCCCN)C(=O)O
reactant | Triethylamine | 54.1 mmol, 7.5 ml, 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | Triphenylmethylchloride | 21.5 mmol, 6.00 g, 1 eq. | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | methanol | CO | CH4O
reactant | Trityl chloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N6-Trityl-Lysine | Yield: 43% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCC[C@H](N)C(=O)O | C25H28N2O2
